US06642389B2
d] 4-Allyl-2-(4-methoxy-phenyl)-5-methyl-oxazole
The above prepared N-(1-acetyl-but-3-enyl)-4-methoxy-benzamide (6.45 g, 26.1 mmol) was stirred in a mixture of 43.9 ml of trifluoro-acetic acid (22 eq.) and 21.75 ml of trifluoro-acetic anhydride (6 eq.) for 7 h at 40° and for 16 h at ambient temperature. Pouring onto crashed ice, twofold extraction with EtOEt, three times washing with Na2CO3-solution, drying over natrium sulfate and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=9/1) produced finally 4.51 g of the title compound as colorless oil.

reactant | N-(1-acetyl-but-3-enyl)-4-methoxy-benzamide | 26.1 mmol, 6.45 g | C(C)(=O)C(CC=C)NC(C1=CC=C(C=C1)OC)=O | C14H17NO3
reactant | trifluoro-acetic acid | 43.9 ml, 22 eq. | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoro-acetic anhydride | 21.75 ml, 6 eq. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-Allyl-2-(4-methoxy-phenyl)-5-methyl-oxazole | 4.51 g | C(C=C)C=1N=C(OC1C)C1=CC=C(C=C1)OC | C14H15NO2
